US06921821B2
4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-3-chloro-6-methoxy-chromen-2-one (II-90)
The 4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-6-methoxy-chromen-2-one para-toluene sulfonic acid salt (0.025 g, 0.043 mmol), N-chlorosuccinimide (0.0061 g, 0.046 mmol), and 0.2 mL Acetic Acid were shaken at room temperature overnight. Solution was diluted with Acetonitrile and purified on a C-18 RP HPLC. Product fractions were combined, treated with K2CO3, extracted with CH2Cl2, dried over sodium sulfate and concentrated to dryness to give the title compound as an off white solid. MS ESI(+)Q1MS m/z 451 (M−H)+; 1H NMR (300 MHz, CDCl3) δ ppm partially buried 1.47-1.78 (m, 2H), 2.03-2.21 (m, 4H), 2.8-2.91 (br d, 2H), 3.39-3.46 (s, 2H), 3.8-3.87 (s, 3H), 4.01-4.13 (m, 1H), 4.83-4.91 (br s, 1H), 5.93-5.97 (s, 2H), 6.71-6.78 (m, 2H), 6.83-6.86 (s, 1H), 7.05-7.16 (m, 2H), 7.27-7.36 (d, 1H).

reactant | 4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-6-methoxy-chromen-2-one para-toluene sulfonic acid salt | 0.043 mmol, 0.025 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)OC)=O
reactant | N-chlorosuccinimide | 0.046 mmol, 0.0061 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Acetic Acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | Acetonitrile | C(C)#N | C2H3N
product | 4-(1-Benzo[1,3]dioxol-5-ylmethyl-piperidin-4-ylamino)-3-chloro-6-methoxy-chromen-2-one | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=C(C(OC1=CC=C(C=C21)OC)=O)Cl | C23H23ClN2O5
